US08124773B2
Preparation of Ethyl 1,4-Dihydro-7-[(3S,4S)-3-methoxy-4-methylamino-1-pyrrolidinyl]-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylate
To a glass reactor covered with silver foil and equipped with an overhead stirrer was added (3S,4S)-3-methoxy-4-methylaminopyrrolidine di-p-toluenesulfonic acid (1190 g) and acetonitrile (9.0 L), and the mixture stirred. The solution was cooled and triethylamine (TEA) (1560 mL) was added, maintaining the batch temperature below 5° C. Ethyl-7-chloro-1,4-dihydro-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylate (750 g) was added, the ice-bath was removed and the reaction temperature allowed to rise and then stirred an additional 48 hours. The reaction was filtered, the filter cake was washed with acetonitrile (3×800 mL), and dried in vacuo to afford 936 g of the title compound as a white solid (97.6%).

reactant | (3S,4S)-3-methoxy-4-methylaminopyrrolidine di-p-toluenesulfonic acid | 1190 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.CO[C@H]1CNC[C@@H]1NC
reactant | acetonitrile | 9.0 L | C(C)#N | C2H3N
reactant | Ethyl-7-chloro-1,4-dihydro-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylate | 750 g | C(C)OC(=O)C1=CN(C2=NC(=CC=C2C1=O)Cl)C=1SC=CN1 | C14H10ClN3O3S
catalyst | silver | [Ag] | Ag
solvent | triethylamine | 1560 mL | C(C)N(CC)CC | C6H15N
product | Ethyl 1,4-Dihydro-7-[(3S,4S)-3-methoxy-4-methylamino-1-pyrrolidinyl]-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylate | 936 g, 97.6% | CO[C@H]1CN(C[C@@H]1NC)C1=CC=C2C(C(=CN(C2=N1)C=1SC=CN1)C(=O)OCC)=O | C20H23N5O4S
